US07632840B2
4-(methylamino)piperidine-4-carboxamide (250 mg, 1.59 mmol), potassium carbonate (264 mg, 1.91 mmol) and 2-bromopropane (0.179 ml, 1.91 mmol) in acetonitrile (10 ml) were heated at reflux for 1.5 hours. The mixture was cooled, filtered and concentrated under reduced pressure. The residues were purified by column chromatography on silica eluting with ammonia in methanol/dichloromethane (90/10) to give 1-isopropyl-4-(methylamino)piperidine-4-carboxamide (153 mg, 48%) as a white solid. 1H NMR Spectrum: (DMSO-d6) 0.92 (d, 6H); 1.45 (m, 2H); 1.77 (m, 2H); 1.86 (s, 1H); 2.06 (s, 3H); 2.38 (m, 4H); 2.59 (m, 1H); 6.82 (s, 1H); 7.15 (s, 1H).

reactant | 4-(methylamino)piperidine-4-carboxamide | 1.59 mmol, 250 mg | CNC1(CCNCC1)C(=O)N | C7H15N3O
reactant | potassium carbonate | 1.91 mmol, 264 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromopropane | 1.91 mmol, 0.179 ml | BrC(C)C | C3H7Br
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-isopropyl-4-(methylamino)piperidine-4-carboxamide | 153 mg, 48% | C(C)(C)N1CCC(CC1)(C(=O)N)NC | C10H21N3O
